US04465850
Step D: 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one
6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-1H-inden-1-one (7.5 g., 0.025 mole) is dissolved in dry 1,2-dimethoxyethane (200 ml.) under nitrogen. Sodium hydride (57% in mineral oil; 1.16 g., 0.0275 mole) is then added and the mixture is stirred at 80° until evolution of hydrogen ceases (2 hours). The solution is cooled and methyl iodide (7.5 ml.) is added, the mixture is again brought to reflux and then cooled. Most of the 1,2-dimethoxyethane is evaporated and water is added to the residue which soon solidifies and is crystallized from methylcyclohexane and from ethanol-water (4:1) to obtain 3.4 g. of 5,6-dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one, m.p. 109°-111.5° C.

reactant | 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-1H-inden-1-one | 0.025 mole, 7.5 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1CCCC1)OC | C15H16Cl2O2
reactant | Sodium hydride | 0.0275 mole, 1.16 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 7.5 ml | CI | CH3I
reactant | 5,6-dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one | ClC1(CC=2CC(C(C2C=C1Cl)=O)(C)C1CCCC1)OC | C16H20Cl2O2
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OC | C16H18Cl2O2
